US06339045B1
Production of N-phenyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine thiocarboxamide (compound No. I-26)
0.8 g (0.0023 mol) of 2-bromo-4-methoxy-6-{3-(trifluoromethyl)phenoxy} pyridine was dissolved in about 15 ml of diethyl ether. While cooling the obtained solution in a dry ice-acetone bath in an argon atmosphere, 1.5 ml of a 1.69M-hexane solution of BuLi (0.0023×1.1 mol) was added thereto, followed by stirring the solution for about 10 minutes. After 0.62 g (0.0023×2.0 mol) of phenyl isothiocyanate dissolved in about 5 ml of diethyl ether was added to the reaction solution, the solution was removed from the bath and stirred at room temperature for about 30 minutes. The reaction solution was mixed with about 5 ml of a 1.2N-aqueous hydrochloric acid solution, and then distributed in ethyl acetate-water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to separate a main fraction therefrom. The fraction was concentrated and then precipitated with hexane, thereby obtaining an aimed product.

reactant | 2-bromo-4-methoxy-6-{3-(trifluoromethyl)phenoxy} pyridine | 0.0023 mol, 0.8 g | BrC1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C13H9BrF3NO2
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.1 mol | [Li]CCCC
reactant | phenyl isothiocyanate | 2.0 mol, 0.62 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | diethyl ether | about 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N-phenyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine thiocarboxamide | C1(=CC=CC=C1)NC(=S)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C20H15F3N2O2S
